US05610144
The operation is carried out in a fashion similar to that described in Example 77, but starting from 0.38 g of methyl 3-{3-{(2S)-1-[(2R,4R)-4-tert-butoxycarbonyl-2-(2-fluorophenyl)-3-thiazolidinyl]-1-oxo-2-propyl}ureido}-phenylacetate in 6 cm3 of a water/methanol (30/70 by volume) mixture and 0.05 g of potassium hydroxide. The crude product is dissolved in 3.5 cm3 of 0.1N aqueous sodium hydroxide solution. The solution thus obtained is washed with 2 times 10 cm3 of ethyl acetate, filtered and brought to a pH of 2 by addition of a 1N aqueous sulphuric acid solution. The product precipitated is separated by filtration, washed with 2 times 5 cm3 of water and dried in air. 0.13 g of 3-{3-{(2S)-1-[(2R,4R)-4-tert-butoxycarbonyl-2-(2-fluorophenyl)-3-thiazolidinyl]-1-oxo-2-propyl}ureido}phenylacetic acid, melting at 110° C., is thus obtained ([α]D20 =+103°±4° (C=0.244%; DMF), [proton NMR (200 MHz, DMSO D6, δ in ppm, J in Hz), 2 rotamers at room temperature, peak coalescence at 120° C., characteristic chemical shifts at 120° C.: 1.05 (d, J=7, 3H, --CH3): 1.55 (s, 9H, --C(CH3)3); 3.25 (dd, J=12.5 and 7, 1H, of S--CH2); 3.52 (dd, J=12.5 and 6, 1H, the other H of S--CH2 --); 3.53 (s, 2H, ArCH2COO); 4.4 (m, 1H, N--COCH--N); 4.86 (dd, J=7 and 6, N--CH--COO); 6.3 (d, J=8, 1H, --NHCO--); 6.83 (s,1H, S--CH--N); 6.89 (bd, J=8, 1H, in position 4 on CO--NH--Ph--); 7.10 to 7.5 (m, 6H, aromatic); 8.0 (bt, J=8.5, 1H, in position 6 on S--CH--Ph--); 8.29 (broad, 1H, ArNHCO--)], [infrared spectrum (KBr), characteristic bands in cm-1 : 3380, 2980, 2935, 2700 to 2250 (broad band), 1735, 1640, 1615, 1595, 1560, 1490, 1460, 1370, 1235, 1155, 760, 705].

reactant | methyl 3-{3-{(2S)-1-[(2R,4R)-4-tert-butoxycarbonyl-2-(2-fluorophenyl)-3-thiazolidinyl]-1-oxo-2-propyl}ureido}-phenylacetate | 0.38 g | C(C)(C)(C)OC(=O)[C@H]1N([C@H](SC1)C1=C(C=CC=C1)F)C([C@H](C)NC(NC=1C=C(C=CC1)CC(=O)OC)=O)=O | C27H32FN3O6S
reactant | potassium hydroxide | 0.05 g | [OH-].[K+]
solvent | water methanol | 6 cm3 | O.CO
solvent | sodium hydroxide | 0.1N, 3.5 cm3 | [OH-].[Na+]
product | 3-{3-{(2S)-1-[(2R,4R)-4-tert-butoxycarbonyl-2-(2-fluorophenyl)-3-thiazolidinyl]-1-oxo-2-propyl}ureido}phenylacetic acid | 0.13 g | C(C)(C)(C)OC(=O)[C@H]1N([C@H](SC1)C1=C(C=CC=C1)F)C([C@H](C)NC(NC=1C=C(C=CC1)CC(=O)O)=O)=O | C26H30FN3O6S
